US07595401B2
Step 2: 2-{1-(1-Ethyl-1H-tetrazol-5-yl)piperidin-4-yl}ethanol
To a mixture of N-Ethyl-4-(2-hydroxyethyl)piperidine-1-carbothioamide (200 mg, 0.93 mmol), HgCl2 (277 mg, 1.02 mmol), and NaN3 (181 mg, 2.78 mmol) in DMF (2.5 mL) was added NEt3 (388 μL, 2.78 mmol) at rt. After stirring for 10 h, the reaction mixture was filtered, and the filter cake was washed with CH2Cl2. The combined filtrates and washings were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo, and the residue was purified by SiO2 chromatograph (60% EtOAc/hexane) to afford the titled compound (85 mg, 41%): 1H NMR (CDCl3) δ 4.18 (q, J=7.2 Hz, 2H), 3.75 (td, J=6.8, 5.2 Hz, 2H), 3.51 (brd, J=12.4, 2H), 3.03 (td, J=12.4, 2.8 Hz, 2H), 1.84 (brd, J=14.4 Hz, 2H), 1.71 (m, 1H), 1.59 (q, J=6.8 Hz, 2H), 1.56 (t, J=7.2 Hz, 3H), 1.48-1.38 (m, 2H)

reactant | N-Ethyl-4-(2-hydroxyethyl)piperidine-1-carbothioamide | 0.93 mmol, 200 mg | C(C)NC(=S)N1CCC(CC1)CCO | C10H20N2OS
reactant | NaN3 | 2.78 mmol, 181 mg | [N-]=[N+]=[N-].[Na+]
reactant | NEt3 | 2.78 mmol, 388 μL | CCN(CC)CC | C6H15N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | HgCl2 | 1.02 mmol, 277 mg | Cl[Hg]Cl
product | 2-{1-(1-Ethyl-1H-tetrazol-5-yl)piperidin-4-yl}ethanol | 85 mg, 41% | C(C)N1N=NN=C1N1CCC(CC1)CCO | C10H19N5O
